US06316444B1
Step C: 2-[1-(1-Methyl-4-(N-naphth-1-yi-carbamoyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared from 2-[1-(1-(benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine (28 mg), 37% aqueous formaldehyde (19 μL), and NaBH3CN (4.8 mg) according to the procedure described in EXAMPLE 14, Step G. Mass spectrum (ESI) 619.3 (M+1).

reactant | 2-[1-(1-(benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine | 28 mg | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(NC1=CC=CC2=CC=CC=C12)=O)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2C(N(CC2)CC)=O | C41H42N10O4
reactant | formaldehyde | 19 μL | C=O | CH2O
reactant | NaBH3CN | 4.8 mg | [BH3-]C#N.[Na+]
product | 2-[1-(1-Methyl-4-(N-naphth-1-yi-carbamoyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine | CN1C(CN(CC1)C(NC1=CC=CC2=CC=CC=C12)=O)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2C(N(CC2)CC)=O | C34H38N10O2
